US07691850B2
Preparation of N-[((3S)-1-{2-[3-fluoro-6-(methyloxy)-1,5-naphthyridin-4-yl]ethyl}-3-pyrrolidinyl)methyl]-3-oxo-3,4-dihydro-2H-1,4-benzothiazine-6-sulfonamide
To a stirred solution of [((3R)-1-{2-[3-fluoro-6-(methyloxy)-1,5-naphthyridin-4-yl]ethyl}-3-pyrrolidinyl)methyl]amine (0.50 g, 1.65 mmole) in dry CH2Cl2 (25 mL) at RT was added triethylamine (0.34 mL, 2.48 mmole) and 3-oxo-3,4-dihydro-2H-1,4-benzothiazine-6-sulfonyl chloride (0.47 g, 1.80 mmole). After 24 h, the reaction solution was concentrated under vacuum. Purification on silica (CHCl3/MeOH, 9:1 containing 5% NH4OH) afforded the title compound (0.80 g, 91%) as light yellow solid: 1H NMR (400 MHz, CDCl3) δ 8.59 (s, 1H), 8.16 (d, J=9.0 Hz, 1H), 7.34 (m, 3H), 7.03 (d, J=9.0 Hz, 1H), 4.04 (s, 3H), 3.47 (s, 2H), 3.34 (m, 2H), 2.95 (m, 3H), 2.79 (m, 2H), 2.61 (m, 1H), 2.52 (m, 2H), 2.34 (m, 1H), 1.97 (m, 1H), 1.55 (m, 1H). LC-MS (ES) m/e 532 (M+H)+.

reactant | [((3R)-1-{2-[3-fluoro-6-(methyloxy)-1,5-naphthyridin-4-yl]ethyl}-3-pyrrolidinyl)methyl]amine | 1.65 mmole, 0.50 g | FC=1C=NC2=CC=C(N=C2C1CCN1C[C@H](CC1)CN)OC | C16H21FN4O
reactant | triethylamine | 2.48 mmole, 0.34 mL | C(C)N(CC)CC | C6H15N
reactant | 3-oxo-3,4-dihydro-2H-1,4-benzothiazine-6-sulfonyl chloride | 1.80 mmole, 0.47 g | O=C1CSC2=C(N1)C=C(C=C2)S(=O)(=O)Cl | C8H6ClNO3S2
solvent | CH2Cl2 | 25 mL | C(Cl)Cl | CH2Cl2
product | N-[((3S)-1-{2-[3-fluoro-6-(methyloxy)-1,5-naphthyridin-4-yl]ethyl}-3-pyrrolidinyl)methyl]-3-oxo-3,4-dihydro-2H-1,4-benzothiazine-6-sulfonamide | 0.80 g, 91% | FC=1C=NC2=CC=C(N=C2C1CCN1C[C@H](CC1)CNS(=O)(=O)C=1C=CC2=C(NC(CS2)=O)C1)OC | C24H26FN5O4S2
